US04935256
Vanillin reagent:
Standard epicatechin solution: Prepare fresh epicatechin stock solution at 1.0 mg/ml in 50% ethanol.

reactant | epicatechin | C1=CC(=C(C=C1[C@H]2[C@H](CC=3C(=CC(=CC3O2)O)O)O)O)O | C15H14O6
reactant | ethanol | C(C)O | C2H6O
product | Vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
